US05571843
5,6-dimethoxy-2-semicarbazono-indan-1,3-dione, monohydrate
5,6-dimethoxyindan-1,2,3-trione, monohydrate, semicarbazide hydrochloride

reactant | 5,6-dimethoxyindan-1,2,3-trione, monohydrate | O.COC=1C=C2C(C(C(C2=CC1OC)=O)=O)=O
reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
product | 5,6-dimethoxy-2-semicarbazono-indan-1,3-dione, monohydrate | O.COC=1C=C2C(C(C(C2=CC1OC)=O)=NNC(=O)N)=O | InChI=1S/C12H11N3O5.H2O/c1-19-7-3-5-6(4-8(7)20-2)11(17)9(10(5)16)14-15-12(13)18;/h3-4H,1-2H3,(H3,13,15,18);1H2
